US04812470
1-Diazo-3-phenyl-2-propanone (0.8 g, 5 mmol) in dichloromethane (5 ml) was added to a mixture of boron trifluoride diethyl etherate (1.2 ml, 10 mmol), chloroacetonitrile (6.4 ml, 100 mmol) and dichloromethane (5 ml) at 20° C. After 0.5 h at 20° C. the solution was washed with cold aqueous 20% sodium hydroxide, dried (MgSO4), and evaporated under reduced pressure to give an oil which was purified by chromatography (10 g silica, dichloromethane) to give 2-chloromethyl-5-benzyl oxazole as a yellow oil (0.64 g, 62%); δH (CDCl3) 7.2 (5H, S, aryl), 6.7 (1H, S, het-H), 4.5 (2H, S, CH2Cl), 4.2 (2H, S, CH2Ar), 2-Chloromethyl-5-benzyloxazole (0.6 g, 3 mmol) and triethyl phosphite (0.7 ml, 4.5 mmol) were heated together for 1 h at 160° C. and then cooled. Direct chromatography (10 g silica, 0 to 5% methanol in dichloromethane) then gave diethyl 5-benzyl-2-oxazolylmethyl phosphonate as a light brown oil (0.65 g, 70%); δH (CDCl3) 7.2 (5H, S, aryl), 6.7 (1H, S, het-H), 4.1 (4H, m, OCH2), 3.9 (2H, S, CH2Ar), 3.3 (2H, d, CH2P), 1.3 (6H, t, Me).

reactant | 1-Diazo-3-phenyl-2-propanone | 5 mmol, 0.8 g | [N+](=[N-])=CC(CC1=CC=CC=C1)=O | C9H8N2O
reactant | boron trifluoride diethyl etherate | 10 mmol, 1.2 ml | B(F)(F)F.CCOCC
reactant | chloroacetonitrile | 100 mmol, 6.4 ml | ClCC#N | C2H2ClN
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-chloromethyl-5-benzyl oxazole | 0.64 g, 62% | ClCC=1OC(=CN1)CC1=CC=CC=C1 | C11H10ClNO
